US05428168
3-Bromopyridine (4 g, 25 mmol), methyl acrylate (2.6 g, 31 mmol), palladium(II) acetate (0.26 g, 1.2 mmol), tri-o-tolylphosphine (0.74 g, 2.4 mmol) and triethylamine (10 ml) were placed in a thick walled glass tube. The tube was sealed under argon and the mixture heated at 80° C. After 12 h the reaction mixture was allowed to cool to room temperature and chloroform (100 ml) was added. The mixture was washed with water (2×100 ml), the organics dried over anhydrous magnesium sulphate, and the solvent removed under reduced pressure. Column chromatography (flash silica gel; 1:1 ethyl acetate/hexane) yielded methyl E-3-(3-pyridyl)acrylate as a colourless oil (0.5 g, 12%).

reactant | 3-Bromopyridine | 25 mmol, 4 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | methyl acrylate | 31 mmol, 2.6 g | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 2.4 mmol, 0.74 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 1.2 mmol, 0.26 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl E-3-(3-pyridyl)acrylate | 0.5 g, 12% | N1=CC(=CC=C1)/C=C/C(=O)OC | C9H9NO2
